US04537880
To a stirred mixture of 3 g of zinc dust, 50 ml of anhydrous tetrahydrofuran and 2.66 g of dibromomethane, was added dropwise a solution of 2.13 g of anhydrous titanium tetrachloride in 5 ml of dichloromethane. After 15 minutes, to the resulting solution was added dropwise a solution of 2 g of cyclotridecanone in 8 ml of anhydrous tetrahydrofuran. The mixture was allowed to react at room temperature for 12 hours. The reaction mixture was diluted with 50 ml of pentane, admixed with 100 ml of 1-M hydrochloric acid, and intermixed by shaking. The organic layer was washed successively with water, dilute aqueous sodium hydrogencarbonate solution, and saturated aqueous sodium chloride solution, then dried, and concentrated to yield methylenecyclotridecane. To a solution of this substance in 40 ml of anhydrous dichloromethane, after having been cooled to -15° C., was added dropwise with stirring a solution of 2.64 g of m-chloroperbenzoic acid in 40 ml of anhydrous dichloromethane. After 3 hours of reaction, the organic layer was washed successively with 10-% sodium sulfite solution, 7-% sodium hydrogencarbonate solution, and saturated sodium chloride solution, then dried and concentrated under reduced pressure. The residue was purified by the silica gel chromatography [developed with a petroleum ether-ethyl acetate (20:1) mixture] to yield 2.04 g (95% yield based on the ketone compound) of an epoxide. To a solution of the epoxide in anhydrous dichloromethane, after having been cooled to -18° C., was added dropwise a borontrifluoride-ether complex. After completion of the addition, water was added to the reaction mixture. The organic layer was separated, then concentrated, and purified by the silica gel chromatography to yield only cyclotridecanecarbaldehyde in a yield of 60-70%.

reactant | m-chloroperbenzoic acid | 2.64 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | cyclotridecanecarbaldehyde | yield of 60-70% | C1(CCCCCCCCCCCC1)C=O | C14H26O
